US05840917
5-Formyl-2-thiophenecarboxylic acid (2.64 g) (synthesized in accordance with the method described in Tetrahedron, 41, 3803 (1985)) was dissolved in tetrahydrofuran (30 ml), and N,N-dimethylformamide (3 drops) was added. Oxalyl chloride (2.2 ml) was added dropwise at room temperature, and the mixture was stirred for 2 hours. The reaction mixture was concentrated under reduced pressure and the concentrate was dissolved in ethyl acetate (50 ml). The resulting solution was added dropwise to a mixture of 25% aqueous ammonia (50 ml) and ethyl acetate (200 ml) with stirring under ice-cooling. The resulting mixture was stirred at room temperature, and then the organic layer was collected. The aqueous layer was extracted twice with ethyl acetate. The organic layers were combined, dried over magnesium sulfate and concentrated under reduced pressure to give 5-formyl-2-thiophenecarboxamide (1.77 g). A mixture of 5-formyl-2- thiophenecarboxamide (1.55 g), N,O- bis(trifluoroacetyl)hydroxyamine (3.5 g), pyridine (2 ml) and toluene (110 ml) was stirred under reflux for 1 hour, and then cooled, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 5-cyano-2-thiophenecarboxamide (0.6 g).

reactant | 5-formyl-2- thiophenecarboxamide | 1.55 g | C(=O)C1=CC=C(S1)C(=O)N | C6H5NO2S
reactant | N,O- bis(trifluoroacetyl)hydroxyamine | 3.5 g | FC(C(=O)NOC(C(F)(F)F)=O)(F)F | C4HF6NO3
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 110 ml | C1(=CC=CC=C1)C | C7H8
product | 5-cyano-2-thiophenecarboxamide | 0.6 g | C(#N)C1=CC=C(S1)C(=O)N | C6H4N2OS
